US05834401
Preparation of N-(2.5-dichlorophenyl)-2-[4-methyl-2-oxo-3-(thiophen-3-yl)-3-pyrrolin-1-yl]isobutyramide (Compound No. A-2)
Triphenylphosphine (1.3 g) was added to a suspension of 2-[4-methyl-2-oxo-3-(thiophen-3-yl)-3-pyrrolin-1-yl]isobutyric acid (1 g) in carbon tetrachloride (9 mL) and dichloromethane (9 mL), and the mixture was heated at reflux for 30 minutes at 70° C. After ice-cooling the reaction solution, 2,5-dichloroaniline (0.61 g) and then triethylamine (0.38 g) were added, and the mixture was stirred for 24 hours at room temperature. After the reaction was completed, distilling off the solvent, water was added and the resulting mixture was extracted with ethyl acetate. The extract was washed with diluted hydrochloric acid and a saturated sodium hydrogencarbonate aqueous solution, and dried over anhydrous sodium sulfate. After distilling off ethyl acetate, the resulting crude product was purified by preparative thin-layer chromatography (developing solvent: chloroform/ethyl acetate=20/1) to give 0.35 g of the title compound.

reactant | Triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[4-methyl-2-oxo-3-(thiophen-3-yl)-3-pyrrolin-1-yl]isobutyric acid | 1 g | CC1=C(C(N(C1)C(C(=O)O)(C)C)=O)C1=CSC=C1 | C13H15NO3S
reactant | 2,5-dichloroaniline | 0.61 g | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | triethylamine | 0.38 g | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 9 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | N-(2.5-dichlorophenyl)-2-[4-methyl-2-oxo-3-(thiophen-3-yl)-3-pyrrolin-1-yl]isobutyramide | 0.35 g | ClC1=C(C=C(C=C1)Cl)NC(C(C)(C)N1C(C(=C(C1)C)C1=CSC=C1)=O)=O | C19H18Cl2N2O2S
